************************************************************************
* auCdl Netlist:
*
* Library Name:  OTA_class
* Top Cell Name: fully_differential
* View Name:     schematic
* Netlisted on:  Sep 11 21:04:32 2019
************************************************************************

*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
*+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: OTA_class
* Cell Name:    fully_differential
* View Name:    schematic
************************************************************************

.SUBCKT fully_differential Vbiasn Vbiasp Vinn Vinp Voutn Voutp
*.PININFO Vbiasn:I Vbiasp:I Vinn:I Vinp:I Voutn:O Voutp:O
MM1 Voutn Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
MM2 Voutp Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
MM4 net14 Vbiasn gnd! gnd! nmos_rvt w=WA l=LA nfin=nA
MM3 Voutn Vinp net14 gnd! nmos_rvt w=WA l=LA nfin=nA
MM0 Voutp Vinn net14 gnd! nmos_rvt w=WA l=LA nfin=nA
.ENDS


.SUBCKT LG_nmos Biasp Vbiasn
*.PININFO Biasp:I Vbiasn:O
MM8 Vbiasn Vbiasn gnd! gnd! nmos_rvt w=WA l=LA nfin=nA
MM10 Vbiasn Biasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
.ENDS

.SUBCKT CR4_2 Vbiasn Vbiasp
*.PININFO Vbiasn:O Vbiasp:O
MM11 net023 net024 Vbiasn gnd! nmos_rvt w=27.0n l=LA nfin=nA
MM8 net025 net010 net023 gnd! nmos_rvt w=27.0n l=LA nfin=nA
MM9 net024 net024 net023 gnd! nmos_rvt w=27.0n l=LA nfin=nA
MM7 net010 net010 net025 gnd! nmos_rvt w=WA l=LA nfin=nA
MM2 Vbiasn Vbiasn gnd! gnd! nmos_rvt w=WA l=LA nfin=nA
MM0 Vbiasp net025 gnd! gnd! nmos_rvt w=WA l=LA nfin=nA
MM10 net024 Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
MM4 net010 Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
MM3 Vbiasn Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
MM1 Vbiasp Vbiasp vdd! vdd! pmos_rvt w=WA l=LA nfin=nA
.ENDS


xiota LG_Vbiasn LG_Vbiasp Vinn Vinp Voutn Voutp fully_differential
xiLG_nmos Biasp LG_Vbiasn LG_nmos
xibCR4_2 Biasn Biasp CR4_2
.END